US04162246
2,2-Bis{4-[2-acetoxy-3-(8-acetyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane (Compound No. 68)
5 g of 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane were heated at 100°-110° C. in 100 ml of acetic anhydride, with stirring, for 6 hours. After completion of the reaction, the reaction mixture was condensed by evaporation under reduced pressure and then 150 ml of benzene were added to dissolve the residue. The benzene solution was washed successively with a 2% w/w sodium carbonate solution and water. The solvent was then removed and the residue was purified by column chromatography through silica gel eluted with a 8:1:1:1 by volume mixture of ethyl acetate, benzene, ethanol, and triethylamine. The desired Compound No. 68 was obtained in the form of white crystals, melting point 147°-149° C.

reactant | 2,2-bis{4-[2-hydroxy-3-(7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | 5 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(NC(C2)(C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(NC(C1)(C)C)(C)C)=O | C43H62N6O8
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-Bis{4-[2-acetoxy-3-(8-acetyl-7,7,9,9-tetramethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propoxy]phenyl}propane | C(C)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C(C)=O)(C)C)=O)OC(C)=O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C(C)=O)(C)C)=O | C51H70N6O12
